US04946862
2.5 g of 1-(2-thienyl)propyl isocyanide and 4.4 g of 3,4,5-trimethoxybenzyl chloride are treated in the same manner as described in Example 1-(1) to give 3.7 g of 1-(3,4,5-trimethoxybenzyl)-1-(2-thienyl)propyl isocyanide as a colorless oil. yield; 67.5%

reactant | 1-(2-thienyl)propyl isocyanide | 2.5 g | S1C(=CC=C1)C(CC)[N+]#[C-] | C8H9NS
reactant | 3,4,5-trimethoxybenzyl chloride | 4.4 g | COC=1C=C(CCl)C=C(C1OC)OC | C10H13ClO3
product | 1-(3,4,5-trimethoxybenzyl)-1-(2-thienyl)propyl isocyanide | 3.7 g, yield; 67.5% | COC=1C=C(CC(CC)(C=2SC=CC2)[N+]#[C-])C=C(C1OC)OC | C18H21NO3S
